US05399613
In 10 liters of methanol were dissolved 50 g of catechol and 50 g of 4-aminodiphenylamine. The pH of the solution obtained was adjusted to 8.0 by adding triethanolamine. Subsequently, 30 g of 30% aqueous hydrogen peroxide was added to the solution. The resulting mixture was reacted at 130° C. for 5 hours, and thereafter cooled to give a solution of a catechol-4-aminodiphenylamine condensate in methanol.

reactant | catechol | 50 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 4-aminodiphenylamine | 50 g | C1=CC=C(C=C1)NC2=CC=C(C=C2)N | C12H12N2
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | hydrogen peroxide | 30 g | OO | H2O2
solvent | methanol | 10 liters | CO | CH4O
product | catechol 4-aminodiphenylamine | C=1(O)C(O)=CC=CC1.C1=CC=C(C=C1)NC2=CC=C(C=C2)N | InChI=1S/C12H12N2.C6H6O2/c13-10-6-8-12(9-7-10)14-11-4-2-1-3-5-11;7-5-3-1-2-4-6(5)8/h1-9,14H,13H2;1-4,7-8H
